US07141596B2
Step 8. (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid
Methyl (2S)-2-amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-propanoate trifluoroacetate (83.8 mg, 0.166 mmol) in methanol (2.0 mL) was treated with triethylamine (92.5 μL, 0.663 mmol) and chilled to 0° C. Benzyl chloroformate (20.8 μL, 0.146 mmol) was added and the solution stirred 2 h at 0° C. Aqueous lithium hydroxide solution (4.0 M, 0.21 mL) was added and the solution stirred 2 h. Purification by preparative LCMS afford product as a white solid (69 mg, 81%). 1H NMR (400 MHz, CDCl3): δ 7.48 (brs, 1H), 7.46–7.43 (m, 1H), 7.31–7.26 (m, 6H), 5.65 (t, J=8.2 Hz, 1H), 5.03 (s, 2H), 4.45–4.41 (m, 1H), 3.45 (dd, J=17.5, 8.5 Hz, 1H), 3.36–3.19 (m, 2H), (2.94 dd, J=14.2, 9.7 Hz, 1H); LCMS found for C20H20BrN2O7S (M+H)+: m/z=511.

reactant | Methyl (2S)-2-amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-propanoate trifluoroacetate | 0.166 mmol, 83.8 mg | FC(C(=O)O)(F)F.N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br
reactant | triethylamine | 0.663 mmol, 92.5 μL | C(C)N(CC)CC | C6H15N
reactant | Benzyl chloroformate | 0.146 mmol, 20.8 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | lithium hydroxide | 4.0 M, 0.21 mL | [OH-].[Li+]
solvent | methanol | 2.0 mL | CO | CH4O
product | (2S)-2-[(benzyloxy)carbonyl]amino-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]propanoic acid | 69 mg, 81% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)C1CC(NS1(=O)=O)=O)Br | C20H19BrN2O7S
